US07858624B2
(R)-tert-butyl 3-((S)-1-(2-tert-butylbenzofuran-7-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (250 mg, 0.53 mmol) was dissolved in 20% TFA/CH2Cl2 (4 mL). The reaction mixture was stirred at rt for 1 h. The mixture was quenched with satd aq NaHCO3 (15 mL) and extracted with EtOAc (3×10 mL). The combined organic extracts were dried over Na2SO4. The filtrate was evaporated to give a residue, which was purified by preparative HPLC to afford pure (S)-1-(2-tert-butylbenzofuran-7-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol (185 mg, 94%). 1H NMR (CDCl3): 0.95 (s, 1), 1.24 (m, 2H), 1.36 (s, 9H), 1.49 (m, 3H), 1.64 (m, 2H), 2.02 (m, 2H), 2.55 (m, 2H), 2.82 (s, 1H), 3.1 (s, 1H), 3.25 (m, 5H), 3.66 (m, 1H), 6.35 (s, 1H), 7.18 (t, 1H), 7.28 (d, 1H), 7.42 (d, 1H), 8.96 (s, 1H), 9.33 (s, 1H)

reactant | (R)-tert-butyl 3-((S)-1-(2-tert-butylbenzofuran-7-yl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 0.53 mmol, 250 mg | C(C)(C)(C)C=1OC2=C(C1)C=CC=C2[C@@](CCCCOC)(O)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C28H43NO5
solvent | TFA CH2Cl2 | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-1-(2-tert-butylbenzofuran-7-yl)-5-methoxy-1-((R)-piperidin-3-yl)pentan-1-ol | 185 mg, 94% | C(C)(C)(C)C=1OC2=C(C1)C=CC=C2[C@@](CCCCOC)(O)[C@H]2CNCCC2 | C23H35NO3
